US07473694B2
Synthesis of tert-butyl (S)-3-[8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(tert-butyldimethylsilanyloxymethyl)-1,4,5,8a-tetraaza-s-indacen-5-yl]piperidine-1-carboxylate
To a methylene chloride (1 mL) solution containing tert-butyl (S)-3-{7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-[3-(tert-butyldimethylsilanyloxy)-2-hydroxypropyl]pyrazolo[1,5-a]pyrimidin-5-ylamino}piperidine-1-carboxylate (28.6 mg, 0.0495 mmol), Dess-Martin periodinane (25.2 mg, 0.0594 mmol) was added at 0° C., and the mixture was allowed to warm to room temperature and stirred for 3 hr. After the reaction, the reaction solution was concentrated, and the residue was purified with PTLC (30% ethyl acetate-hexane) to obtain the title compound (14.5 mg).

reactant | tert-butyl (S)-3-{7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-[3-(tert-butyldimethylsilanyloxy)-2-hydroxypropyl]pyrazolo[1,5-a]pyrimidin-5-ylamino}piperidine-1-carboxylate | 0.0495 mmol, 28.6 mg | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CC(CO[Si](C)(C)C(C)(C)C)O)C2=CC=C(C=C2)OCC | C38H60N6O7Si
reactant | Dess-Martin periodinane | 0.0594 mmol, 25.2 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-3-[8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(tert-butyldimethylsilanyloxymethyl)-1,4,5,8a-tetraaza-s-indacen-5-yl]piperidine-1-carboxylate | 14.5 mg | C(C)(C)(C)OC(=O)N(C1=C2C=C(N(C2=NC2=CC=NN12)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)OCC | C38H56N6O6Si
